US08252935B2
b) 2-[5-(1-Methanesulfonyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid
To a solution of compound 39a, 2-[5-(1-Methanesulfonyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester (70.0 mg, 0.133 mmol) in EtOH (6.5 ml) was added 2M KOH (0.027 ml, 0.53 mmol). The reaction was heated to 78° C. for 3 hours, cooled to room temperature, and concentrated in vacuo. Purification via Gilson HPLC, gave the product as a white lyophilate. (53.4 mg, 81%) 1H NMR (300 MHz, MeOD) δ ppm 0.85 (dd, J=6.59, 1.70 Hz, 6 H) 1.42 (dt, J=13.28, 6.74 Hz, 1 H) 1.56-1.71 (m, 3 H) 1.79-1.87 (m, 1 H) 1.92 (dd, J=13.56, 7.16 Hz, 2 H) 2.69-2.85 (m, 5 H) 3.19-3.23 (m, 2 H) 3.61-3.72 (m, 3 H) 7.23 (s, 1 H) 7.42 (d, J=1.51 Hz, 2 H) 7.62-7.74 (m, 4 H) Calcd for C25H30F3NO4S (M+H) 497.57, Found 498.3.

reactant | 2-[5-(1-Methanesulfonyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester | 0.133 mmol, 70.0 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)S(=O)(=O)C)C1=CC=C(C=C1)C(F)(F)F)=O | C27H34F3NO4S
reactant | KOH | 0.53 mmol, 2M, 0.027 ml | [OH-].[K+]
solvent | EtOH | 6.5 ml | CCO | C2H6O
product | 2-[5-(1-Methanesulfonyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid | CS(=O)(=O)N1CC(CCC1)C=1C=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)O)CC(C)C | C25H30F3NO4S
